US08871796B2
A stirred solution of N-{3-[3-(1-ethenyl-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl)phenyl]oxetan-3-yl}tert-butylsulfinamide (1.63 g, 3.22 mmol) in 40 mL of methanol was cooled in an ice bath. 4M HCl in dioxane (3.2 mL, 13 mmol) was added and the mixture was stirred for 45 min. Saturated aqueous NaHCO3 solution was added and mixture was warmed to ambient temperature and extracted with EtOAc. The EtOAc layer was washed with brine, dried over MgSO4, filtered, and the solvent was removed under reduced pressure to give 3-(3-{1-ethenyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine as an oil. Calcd (M+1)+: 402.4. Found: 402.8

reactant | N-{3-[3-(1-ethenyl-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl)phenyl]oxetan-3-yl}tert-butylsulfinamide | 3.22 mmol, 1.63 g | C(=C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)NS(=O)C(C)(C)C | C25H26F3N3O3S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 13 mmol, 3.2 mL | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 3-(3-{1-ethenyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine | C(=C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)N | C21H18F3N3O2
